US05084463
Step 2) Preparation of 6-Chloro-2-chloromethylquinoline
6-Chloro-2-methylquinoline N-oxide (1.73 g, 8.1 mmol) was added to a stirring solution of p-toluenesulfonyl chloride (1.7 g, 8.96 mmol) in dichloroethane (80 mL). The reaction mixture was heated to 100° C. overnight under N2, cooled and concentrated, partitioned between 10% K2CO3 /ethyl acetate, dried over MgSO4, and evaporated under reduced pressure to afford a solid. The crude solid was purifed by flash chromatography (4:1 hexane/ethyl acetate) to afford 0.93 g (52%) of pure product as an off white solid.

reactant | 6-Chloro-2-methylquinoline N-oxide | 8.1 mmol, 1.73 g | ClC=1C=C2C=CC(=[N+](C2=CC1)[O-])C | C10H8ClNO
reactant | p-toluenesulfonyl chloride | 8.96 mmol, 1.7 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | hexane ethyl acetate | CCCCCC.C(C)(=O)OCC
solvent | dichloroethane | 80 mL | ClC(C)Cl | C2H4Cl2
product | 6-Chloro-2-chloromethylquinoline | 0.93 g, 52% | ClC=1C=C2C=CC(=NC2=CC1)CCl | C10H7Cl2N
